US08536168B2
1-Benzyl-4-[4-(5-morpholin-4-ylmethyl-pyridin-2-yl)-piperazin-1-yl]-phthalazine
To a solution of 6-[4-(4-benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridine-3-carbaldehyde (40 mg, 0.1 mmol) in 5 mL DCM is added a drop of acetic acid, NaBH(OAc)3 (41.4 mg, 0.2 mmol) and morpholine (7.5 mL, 0.12 mmol). The reaction mixture is stirred for 30 min at rt. Aqueous NaHCO3 solution is added and the reaction mixture is stirred for an additional 30 min. The layers are separated and the aqueous layer is extracted with DCM. The combined organic layers are washed with water, brine, dried over Na2SO4, filtered and concentrated. The crude product is purified by flash chromatography on silica gel (EtOAc/heptane 10%-70%) to yield the title compound (37.8 mg, 80%).

reactant | 6-[4-(4-benzyl-phthalazin-1-yl)-piperazin-1-yl]-pyridine-3-carbaldehyde | 0.1 mmol, 40 mg | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=CC=C(C=N1)C=O | C25H23N5O
reactant | NaBH(OAc)3 | 0.2 mmol, 41.4 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | morpholine | 0.12 mmol, 7.5 mL | N1CCOCC1 | C4H9NO
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | DCM | 5 mL | C(Cl)Cl | CH2Cl2
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-Benzyl-4-[4-(5-morpholin-4-ylmethyl-pyridin-2-yl)-piperazin-1-yl]-phthalazine | 37.8 mg, 80% | C(C1=CC=CC=C1)C1=NN=C(C2=CC=CC=C12)N1CCN(CC1)C1=NC=C(C=C1)CN1CCOCC1 | C29H32N6O
